US07767672B2
tert-butyl 3-cyano-3-methylazetidine-1-carboxylate
A solution of tert-butyl 3-cyanoazetidine-1-carboxylate (0.55 g, 3.04 mmol) in THF (10 ml) was cooled to −78° C. under a nitrogen atmosphere. LHMDS (3.34 ml, 1M THF) was added dropwise and the solution stirred at −78° C. for 1 hr. Methyl iodide was added dropwise and stirring continued for a further 2 h. The reaction was quenched with water and diluted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and concentrated. The residue was purified on silica gel eluting with 20% ethyl acetate/petrol provide the title compound as a pale yellow oil (0.46 g, 77%). 1H NMR (CDCl3) 1.48 (9H, s), 1.71 (3H, s), 3.82 (2H, d), 4.31 (2H, d).

reactant | tert-butyl 3-cyanoazetidine-1-carboxylate | 3.04 mmol, 0.55 g | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
reactant | LHMDS | 1M, 3.34 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Methyl iodide | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-cyano-3-methylazetidine-1-carboxylate | 0.46 g, 77% | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C | C10H16N2O2
